US07601716B2
1-[4-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazin-7-yl}pyridin-2-yl)piperazin-1-yl]ethanone
To a solution of 1-[5-chloro-2-(trifluoromethyl)benzyl]-7-(2-piperazin-1-yl-pyridin-4-yl)-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine (63 mg, 0.000129 mol) in anhydrous DMF (1 mL) was added acetyl chloride (0.012 mL) and triethylamine (0.020 mL). The mixture was stirred at room temperature under nitrogen overnight and then concentrated. The residue was purified on normal phase silica gel chromatography to give the title compound as a yellow solid (56% yield). m.p.=241° C., LCMS: m/z=531.31 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.15 (3H, s), 3.47 (2H, m), 3.52 (2H, m), 3.57 (2H, m), 3.62 (2H, m), 3.73 (4H, m), 4.61 (2H, s), 5.25 (1H, bs), 6.55 (2H, m), 6.69 (1H, d, J=5.3 Hz), 7.37 (1H, d, J=8.3 Hz), 7.52 (1H, s), 7.65 (1H, d, J=8.3 Hz), 7.78 (1H, bs), 8.12 (1H, d, J=5.3 Hz).

reactant | 1-[5-chloro-2-(trifluoromethyl)benzyl]-7-(2-piperazin-1-yl-pyridin-4-yl)-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine | 0.000129 mol, 63 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)N3CCNCC3)C1)C(F)(F)F | C24H24ClF3N6
reactant | acetyl chloride | 0.012 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.020 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazin-7-yl}pyridin-2-yl)piperazin-1-yl]ethanone | 56% yield | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)N3CCN(CC3)C(C)=O)C1)C(F)(F)F | C26H26ClF3N6O
